data/mechanism_extracts/JOC/10.1021_acs.joc.4c01548.json
{"doi": "10.1021_acs.joc.4c01548", "journal": "JOC", "is_review": false, "rxn_class_summary": "Electrochemical sulfonylation of olefins with sodium sulfinates to access vinyl, alkyl, and allyl sulfones using NaI as redox mediator", "mechanism_family": ["radical_anodic", "mediator_anodic", "paired_electrolysis"], "electrochemical_role": "Anodic oxidation of iodide to I2 (and/or direct oxidation of sulfinate) generates sulfonyl radical A; cathode reduces protons to H2 and, for activated olefins, reduces the C-centered radical B to a carbanion", "key_intermediates": [{"name": "sulfonyl radical (ArSO2•)", "smiles": "O=[S](=O)(c1ccc(C)cc1)[*]", "role": "reactive"}, {"name": "C-centered carbon radical B (β-sulfonyl alkyl radical after addition to olefin)", "smiles": null, "role": "reactive"}, {"name": "β-iodo sulfone C (Path I)", "smiles": null, "role": "transient"}, {"name": "β-sulfonyl carbanion D (Path II, after SET reduction of B)", "smiles": null, "role": "transient"}, {"name": "I2 generated by anodic oxidation of I-", "smiles": "II", "role": "reactive"}, {"name": "iodinated byproduct 1f (β-iodo sulfone isolated in 15%)", "smiles": null, "role": "off_pathway"}], "electron_flow": "At the anode, iodide is oxidized to I2 which oxidizes ArSO2Na to sulfonyl radical A (direct anodic oxidation of sulfinate also possible); A adds to the olefin giving C-radical B. Path I: B is trapped by I2 to give β-iodo sulfone C, which undergoes base-promoted HI elimination to the vinyl sulfone. Path II (EWG/cyclohexenyl olefins): B is reduced at the cathode to anion D, which is reoxidized by I2 or protonated/eliminated to give alkyl or allyl sulfone; protons are reduced to H2 at the cathode.", "rate_determining_step": null, "probe_reagents": [{"name": "TEMPO", "smiles": "CC1(C)CCCC(C)(C)N1[O]", "purpose": "radical_trap", "observation": "Addition of 4.0 equiv TEMPO fully suppressed formation of vinyl sulfone 1b, supporting a radical pathway"}, {"name": "N,N-diallyl-4-methylbenzenesulfonamide (radical cyclization probe)", "smiles": "Cc1ccc(S(=O)(=O)N(CC=C)CC=C)cc1", "purpose": "radical_clock", "observation": "Afforded cyclized pyrrolidine product 5d (iodomethyl-tosylmethyl pyrrolidine) in 35%, indicating a radical addition/cyclization process"}, {"name": "Standard reaction (isolation of iodinated intermediate)", "smiles": null, "purpose": "intermediate_trap", "observation": "β-iodo sulfone byproduct 1f isolated in 15% under standard conditions, supporting iodosulfone C as intermediate of Path I"}], "evidence_types_used": ["intermediate_trap_TEMPO", "radical_clock", "isolation_of_intermediate"], "evidence_strength": "medium", "notes": "Two mechanistic pathways are proposed depending on olefin electronics: Path I (favored for simple/aliphatic olefins) goes through β-iodo sulfone C with base-mediated HI elimination to give vinyl sulfone; Path II operates for electron-poor olefins (EWG) or cyclohexene-type substrates where cathodic SET reduces radical B to a carbanion giving alkyl or allyl sulfones. The reaction also proceeds in absence of NaI (lower yield), indicating direct anodic oxidation of sulfinate is a viable parallel route to radical A."}
